US07635700B2
To a stirred mixture of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.46 g, 1.4 mmol) in acetonitrile (10 mL), was added 3,4-dichloro-benzoyl chloride (0.34 g, 1.6 mmol) and N,N-diisopropyl ethylamine (0.54 mL, 3.3 mmol). The mixture was stirred at room temp for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 3,4-dichloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-benzamide as a white solid (450 mg, 70% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 6.60 min (99.6%); mp, 271-273° C.; 1HNMR (DMSO-d6) 2.17-2.22 (m, 1H, CHH), 2.58-2.90 (m, 6H, CHCH2, CH3), 4.97-5.09 (m, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 7.34-8.17 (m, 6H, Ar), 9.14 (t, J=5 Hz, 1H, CH2NH), 11.04 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.80, 23.29, 30.60, 42.30, 56.52, 117.66, 124.17, 125.56, 127.58, 129.28, 130.76, 131.31, 133.97, 134.11, 134.56, 140.39, 148.50, 154.86, 161.06, 164.10, 169.53, 172.62. LCMS MH=473, 475; Anal Calcd For C22H18N4O4Cl2+0.1 CH2Cl2: C, 55.09; H, 3.81; N, 11.63; Cl, 16.19. Found: C, 54.88; H, 3.60; N, 11.46; Cl, 16.38.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.4 mmol, 0.46 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | 3,4-dichloro-benzoyl chloride | 1.6 mmol, 0.34 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | N,N-diisopropyl ethylamine | 3.3 mmol, 0.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3,4-dichloro-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-benzamide | 450 mg, 70% yield | ClC=1C=C(C(=O)NCC2=C3C(N(C(=NC3=CC=C2)C)C2C(NC(CC2)=O)=O)=O)C=CC1Cl | C22H18Cl2N4O4
